Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Left Heart Cardiac Catheterization ___

 
History of Present Illness:
___ from OSH w chest pain. Patient reports 3 days of 
intermittent chest pain and fatigue, worsened today. The chest 
pain started with 
bilateral shoulder and mild neck pain. felt well the morning of 
admission. Today around 3pm she developed gradual onset of 
retrosternal chest pain, radiating to right shoulder. Mild 
associated nausea. Worsened with exertion, resolved with SL NTG 
q5min x3 . No associated dyspnea or diaphoresis. Mild cough for 
several days. Patient states sx similar to previous MIs. 
Currently chest pain free.

Of note, patient completed a year of Plavix and no longer 
taking.

She was transferred to ___ via EMS who gave her ASA and 
nitro spray with some relief. At ___ her labs were notable 
for Trop <0.01 @ 1700. proBNP 200, Na 130, EKG showed NSR with 
no ST or Tw changes. no q waves. CXR: Normal AP view of the 
chest.  No active/acute chest disease. Number of healed left 
posterior lateral rib fractures are noted.

She was transferred to the ___ for further management with 
cardiac cath. 

In the ED
=============
Initial vitals:  98.3  66 151/67 14 97% RA 
pain free presently - got asa and additional nitro by ems 

Labs were significant for  

Trop-T: <0.01  

135  100  17        AGap=16 
--------------< 117 
4.0  23  0.7  

CK: 26  MB: 1  

Ca: 9.2 Mg: 2.0 P: 3.8

      12.0      MCV=95 
11.5>------<190 
      36.6  

 N:76.0 L:16.3 M:5.0 E:1.7 Bas:0.6 ___: 0.4 Absneut: 8.74 
Abslymp: 1.88 Absmono: 0.58 Abseos: 0.19 Absbaso: 0.07  

___: 11.7  PTT: 35.7  INR: 1.1 
 
Imaging showed: CXR unremarkable 
EKG: NSR, HR 68, NA, NI, TWI III (new), no STE

The patient received: ASA by EMS on the way to the ED. 

The patient was shifted to the floor. On the floor, the patient 
is asymptomatic and does not have chest pain, SOB or 
palpitations.
 
Past Medical History:
CAD : hx MI, s/p stents x2 at ___ approx. ___. LAD DES 
in ___
Headaches
Seizures (in distant past, uses clonazepam for this)
Neuropathy
Chronic Back Pain -- Percocet
? history of CVA per her ___ MD - she recalls episode of 
left
sided weakness, not treated
Neurosurgery x3 (? Related to meningitis)
Vertigo
Tonsillectomy
Gingivectomy
C-sections x4
Right Cataract surgery

 
Social History:
___
Family History:
has history of throat cancer in her two brothers.
 
Physical Exam:
ADMISSION EXAM:
===============
VS:   98.1 150/72 63 18 96% on RA weight: 55kg
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. 
PERRLA, EOMI. 
NECK: Supple without LAD  
PULM: full air entry bilaterally, no crackle. no wheeze. no 
rhonchi 
HEART: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-distended, non-tender. No rebound/guarding. BS+
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII intact, strength ___ in b/l ___, SLIT

DISCHARGE EXAM:
===============
Vitals: T 98.3, BP 106-150/60-68, P 56-84, R 18, 95% RA 
I/O= (8 hrs) 100/-
Weight on admission: 55kg
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. 
PERRLA, EOMI. 
NECK: Supple without LAD  
PULM: full air entry bilaterally, no crackle. no wheeze. no 
rhonchi 
HEART: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-distended, non-tender. No rebound/guarding. BS+
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII intact, strength ___ in b/l ___, SLIT
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:32PM BLOOD WBC-11.5* RBC-3.87* Hgb-12.0 Hct-36.6 
MCV-95 MCH-31.0 MCHC-32.8 RDW-12.4 RDWSD-43.5 Plt ___
___ 11:32PM BLOOD Neuts-76.0* Lymphs-16.3* Monos-5.0 
Eos-1.7 Baso-0.6 Im ___ AbsNeut-8.74* AbsLymp-1.88 
AbsMono-0.58 AbsEos-0.19 AbsBaso-0.07
___ 11:32PM BLOOD ___ PTT-35.7 ___
___ 11:32PM BLOOD Glucose-117* UreaN-17 Creat-0.7 Na-135 
K-4.0 Cl-100 HCO3-23 AnGap-16
___ 11:32PM BLOOD CK(CPK)-26*
___ 11:32PM BLOOD cTropnT-<0.01
___ 05:00AM BLOOD CK-MB-1 cTropnT-<0.01
___ 11:32PM BLOOD Calcium-9.2 Phos-3.8 Mg-2.0

DISCHARGE LABS:
===============
___ 04:55AM BLOOD WBC-10.3* RBC-3.92 Hgb-12.2 Hct-37.3 
MCV-95 MCH-31.1 MCHC-32.7 RDW-12.7 RDWSD-43.8 Plt ___
___ 04:55AM BLOOD ___ PTT-34.0 ___
___ 04:55AM BLOOD Glucose-95 UreaN-16 Creat-0.6 Na-135 
K-3.9 Cl-100 HCO3-25 AnGap-14
___ 04:55AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.1

STUDIES AND IMAGING:
=====================
Cath ___
The LCA had no angiographically apparent CAD. The LAD stent was 
widely patent with mild plaquing in the rest of the artery. The 
Cx was widely patent with only mild disease. The RCA had mild 
ISR in the
proximal segment.

 
Brief Hospital Course:
___ F with h/o CAD s/p stenting (s/p stents x2 at ___ 
___ and s/p DES to LAD ___ who presents with unstable 
angina and underwent left heart cath on ___ with no new 
disease of her coronaries. 

# UNSTABLE ANGINA:
She initially presented with chest pain at rest and with 
exertion. She reported her pain was the same as her previous 
chest pain, which previously required intervention. She had 
negative troponins x3 and no significant changes in EKG. She 
underwent cardiac catheterization on ___ given TIMI score of 
4 and unstable angina. Her cath showed LCA with no 
angiographically apparent CAD. The LAD stent was widely patent 
with mild plaquing in the rest of the artery. The Cx was widely 
patent with only mild disease. The RCA had mild ISR in the 
proximal segment. Patient had no further episodes of chest pain. 
Patient was initiated on Atorvastatin 40mg and Lovastatin was 
discontinued given history of CAD should be on high intensity 
statin. She was also initiated on Metoprolol 50mg XL and 
Atenolol was discontinued given patient's age. 

# Leukocytosis: Likely reactive. Downtrended to 10.3 at time of 
discharge. There are no signs of fever, dysuria. He cough is 
chronic and is non-productive. 

CHRONIC ISSUES: 
# Depression: Continue home Amitriptyline
# Seizures: (in distant past) will cont clonazepam for this
# Chronic: Back Pain will continue Percocet

# CODE STATUS: full code (presumed) 
# CONTACT: ___ (daughter) ___

TRANSITIONAL ISSUES:
===================
# Medication Changes: Start Atorvastatin 40mg (Lovestatin 
discontinued) and start Metoprolol Succinate 50mg XL (Atenolol 
discontinued). 
# Discharge Weight: 55kg
# Discharge Creatinine: 0.6

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Lovastatin 20 mg oral QHS 
4. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 
5. ClonazePAM 0.5 mg PO BID 
6. Amitriptyline 25 mg PO QHS 
7. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Every night Disp 
#*30 Tablet Refills:*0 
2.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
3.  Amitriptyline 25 mg PO QHS  
4.  Aspirin 81 mg PO DAILY  
5.  ClonazePAM 0.5 mg PO BID  
6.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
7.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Unstable angina
Secondary diagnosis: 
Leukocytosis, hypercholesterolemia, chronic back pain, seizure 
disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you were experiencing chest 
discomfort concerning for a problem with your coronary arteries. 
You underwent a cardiac catheterization that did not show any 
new blockages in the blood vessels of your heart. You should 
stop taking your Atenolol and Lovastatin. You should start 
taking Metoprolol and Atorvastatin. Please resume your other 
home medications and follow up with your primary cardiologist.

Please continue to follow a low salt diet and weigh yourself 
every morning - please call your doctor if weight goes up more 
than 3 lbs.

Should you experience a recurrence or worsening of the symptoms 
that originally brought you to the hospital, experience any of 
the warning signs listed below, or have any other symptoms that 
concern you, please seek medical attention.

It was a pleasure taking care of you!
Your ___ Care Team
 
Followup Instructions:
___